US05814654
To a solution of ethyl 1,3,4,5-tetrahydro-benz[cd]indole-2-carboxylate (1.00 g , 4.36 mmol) in N,N-dimethylformamide (20 ml) was added 60% sodium hydride (0.19 g, 4.80 mmol), followed by stirring at room temperature for 30 minutes. Then, methyl iodide (1.86 g, 13.1 mmol) was added and the resulting mixture was stirred at room temperature for 2 hours, after which the reaction mixture was poured into ice water, followed by extraction with ethyl acetate (twice). The extract solution was washed with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1.5/98.5) to obtain ethyl 1,3,4,5-tetrahydro-1-methyl-benz[cd]indole-2-carboxylate (1.03 g).

reactant | ethyl 1,3,4,5-tetrahydro-benz[cd]indole-2-carboxylate | 4.36 mmol, 1.00 g | N1C(=C2C=3C(=CC=CC13)CCC2)C(=O)OCC | C14H15NO2
reactant | sodium hydride | 4.80 mmol, 0.19 g | [H-].[Na+]
reactant | methyl iodide | 13.1 mmol, 1.86 g | CI | CH3I
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 1,3,4,5-tetrahydro-1-methyl-benz[cd]indole-2-carboxylate | 1.03 g | CN1C(=C2C=3C(=CC=CC13)CCC2)C(=O)OCC | C15H17NO2
